* source NVM1
R_R1         N00139 N00192  1k TC=0,0 
R_R2         0 N00192  1.5k TC=0,0 
R_R3         N00139 N00146  2.2k TC=0,0 
R_R4         N00192 N00146  3.3k TC=0,0 
R_R5         0 N00146  4.7k TC=0,0 
V_V1         N00139 0 10Vdc
