* source NVM2
R_R2         N03013 N02977  1.5k TC=0,0 
R_R4         N02996 0  3.3k TC=0,0 
R_R3         N02981 N02977  2.2k TC=0,0 
R_R1         N02970 N02977  1k TC=0,0 
R_R5         0 N02985  4.7k TC=0,0 
V_V3         N03013 0 5Vdc
V_V4         N02970 N02996 10Vdc
V_V5         N02981 N02985 10Vdc
R_R6         N02970 N02981  10k TC=0,0 
